US04962109
(i) 3-methylbut-2-en-1-yl 2-[2-(1,1-dimethylethyl]pyrimidin-5-yl]acetate
Prepared according to the esterification process described in Example 19, Method 1 from 3-methylbut-2-en-1-ol and 2-[2-(1,1-dimethylethyl)pyrimidin-5-yl]acetic acid

reactant | 3-methylbut-2-en-1-ol | CC(=CCO)C | C5H10O
reactant | 2-[2-(1,1-dimethylethyl)pyrimidin-5-yl]acetic acid | CC(C)(C)C1=NC=C(C=N1)CC(=O)O | C10H14N2O2
product | 3-methylbut-2-en-1-yl 2-[2-(1,1-dimethylethyl]pyrimidin-5-yl]acetate | CC(C)(C)C1=NC=C(C=N1)CC(=O)OCC=C(C)C | C15H22N2O2
